US07041690B2
A suspension of 4-(2-bromophenoxy)benzaldehyde (0.35 g, 1.26 mmol), 2-hydroxy hippuric acid (0.22 g, 1.14 mmol) and sodium acetate (0.12 g, 1.48 mmol) in acetic anhydride (1 mL) is heated to 60° C. on an orbital shaker for one hour and is then cooled to 0° C. The reaction mixture is then concentrated under reduced pressure at 45° C. to afford a crude yellow solid. This solid is washed with ice water (150 mL) and heptane (100 mL) and then dried under vacuum at 40° C. to provide 0.475 g of 2-{(4Z)-4-[4-(2-bromophenoxy)benzylidene]-5-oxo-4,5-dihydro-1,3-oxazol-2-yl}phenyl acetate.

reactant | 4-(2-bromophenoxy)benzaldehyde | 1.26 mmol, 0.35 g | BrC1=C(OC2=CC=C(C=O)C=C2)C=CC=C1 | C13H9BrO2
reactant | 2-hydroxy hippuric acid | 1.14 mmol, 0.22 g | OC1=C(C(NCC(=O)O)=O)C=CC=C1 | C9H9NO4
reactant | sodium acetate | 1.48 mmol, 0.12 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-{(4Z)-4-[4-(2-bromophenoxy)benzylidene]-5-oxo-4,5-dihydro-1,3-oxazol-2-yl}phenyl acetate | 0.475 g | C(C)(=O)OC1=C(C=CC=C1)C=1OC(/C(/N1)=C/C1=CC=C(C=C1)OC1=C(C=CC=C1)Br)=O | C24H16BrNO5
